US06689888B2
Preparation of Intermediate 4-(Thiazol-2-yl)-phenol:
In a round-bottomed flask, bromoacetaldehyde dimethoxyacetal (123 μl, 1.04 mmol), p-toluenesulfonic acid (199 mg, 1.04 mmol), and 4-hydroxy-thiobenzamide (160 mg, 1.04 mmol) were dissolved in ethanol (10 ml) and the resulting solution was heated to reflux for about twenty-four hours. The reaction mixture was then concentrated to an oil which was redissolved in ethyl acetate, and extracted with saturated aqueous sodium carbonate. The combined organic extracts were then washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil. The crude product was purified by column chromatography (hexanes to 10% ethyl acetate/hexanes) to furnish the title compound as a white solid (113 mg, 61% yield). LRMS ([M+H+])=177.8.

reactant | bromoacetaldehyde dimethoxyacetal | 1.04 mmol, 123 μl | COOC(CBr)OOC | C4H9BrO4
reactant | p-toluenesulfonic acid | 1.04 mmol, 199 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-hydroxy-thiobenzamide | 1.04 mmol, 160 mg | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(Thiazol-2-yl)-phenol | 113 mg, 61% yield | S1C(=NC=C1)C1=CC=C(C=C1)O | C9H7NOS
